US07459448B2
9-Chloro-2-(4-iodo-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-36)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and N-(4-iodo-phenyl)-guanidine nitrate were converted to I-36 (62%): HRMS Calcd. for C18H12ClIN4O: 462.9822, Found 462.9818.

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | N-(4-iodo-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].IC1=CC=C(C=C1)NC(=N)N
product | 9-Chloro-2-(4-iodo-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C=C3)I)=O)C1 | C18H12ClIN4O
